US07605123B2
8.11 Synthesis of carbonic acid 2,5-dioxo-pyrrolidin-1-yl ester 2-[2-(2-methoxy-ethoxy)-ethoxy]-ethyl ester
Triethylene glycol monomethyl ether (1.0 g, 6.1 mmol) and N,N′-disuccinimidyl carbonate (1.87 g, 7.3 mmol) were dissolved in acetonitrile (10 mL). Then triethylamine (1.3 mL, 9.15 mmol) was added and the reaction stirred overnight at room temperature. Crude reaction was evaporated to dryness, dissolved in sat. NaHCO3 (50 mL), washed ethyl acetate (2×50 mL), dried MgSO4, and evaporated to dryness. Column chromatography (Silica, ethyl acetate) afforded 1 a clear oil (0.367 g, 20% yield).

reactant | Triethylene glycol monomethyl ether | 6.1 mmol, 1.0 g | COCCOCCOCCO | C7H16O4
reactant | N,N′-disuccinimidyl carbonate | 7.3 mmol, 1.87 g | C1CC(=O)N(C1=O)OC(=O)ON2C(=O)CCC2=O | C9H8N2O7
reactant | triethylamine | 9.15 mmol, 1.3 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | carbonic acid 2,5-dioxo-pyrrolidin-1-yl ester 2-[2-(2-methoxy-ethoxy)-ethoxy]-ethyl ester | 0.367 g, 20% yield | COCCOCCOCCOC(ON1C(CCC1=O)=O)=O | C12H19NO8
